US06656957B1
3-[2-(6-Methylpyridin-2-yl)-vinyl-benzonitrile
A solution of 2,6-dimethyl pyridine (4.2 ml, 36.28 mMol), 3-cyanobenzaldehyde (4.95 g, 37.74 mMol) in acetic anhydride (6.85 ml) is heated under reflux for 16 hours. The acetic anhydride is then evaporated in vacuo and the residue purified on column chromatography (silica gel 400 g). The column is first eluted with toluene (400 ml) and then with toluene/ethyl acetate 95:5. The fractions containing the desired compound are combined, and evaporated in vacuo. The solid residue is recrystallized from methylene chloride/hexane and 3.18 g of white crystals are isolated. (melting point: 91-92°).

reactant | 2,6-dimethyl pyridine | 36.28 mMol, 4.2 ml | CC1=NC(=CC=C1)C | C7H9N
reactant | 3-cyanobenzaldehyde | 37.74 mMol, 4.95 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | acetic anhydride | 6.85 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(6-Methylpyridin-2-yl)-vinyl-benzonitrile | CC1=CC=CC(=N1)C=CC1=C(C#N)C=CC=C1 | C15H12N2
